US08465674B2
THF (200 ml) was added to methoxymethyltriphenylphosphonium chloride (30.3 g) in a reaction vessel under an atmosphere of nitrogen, and the solution was cooled to −20° C. t-BuOK (9.9 g) in a THF (50 ml) solution was added, and the mixture was stirred for 1 hour. A THF (100 ml) solution of 6-propyl-octahydronaphthalene-2(1H)-one (13.3 g) obtained in the fourth step was added dropwise, and the mixture was stirred for 1 hour. The reaction mixture was warmed to room temperature, and water (100 ml) was added. The mixture was extracted with toluene. The resulting organic layers were washed with water, and dried over anhydrous magnesium sulfate. The solution was concentrated to about 200 ml under reduced pressure. The concentrated solution was poured into n-hexane (1,000 ml), and solids deposited were filtered off. The solvent was distilled off from the resulting solution, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-heptane=1/20 by volume) to give 2-methoxymethylene-6-propyldecahydronaphthalene (13.3 g).

reactant | methoxymethyltriphenylphosphonium chloride | 30.3 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 9.9 g | CC(C)(C)[O-].[K+]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | 6-propyl-octahydronaphthalene-2(1H)-one | 13.3 g | C(CC)C1CC2CCC(CC2CC1)=O | C13H22O
